US09388161B2
A 100-mL round-bottom flask was charged with (S)-methyl 5-(4-fluorophenoxy)-2-methyl-6-(1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate (0.300 g, 0.79 mmol) and N,N-dimethylformamide (10 mL), and the solution was cooled to 0° C. Sodium hydride (60% dispersion in mineral oil, 0.047 g, 1.17 mmol) was added, and the resulting mixture stirred for 30 min at room temperature. 1-Benzhydryl-2-methylazetidin-3-yl methanesulfonate (0.286 g, 0.86 mmol) was added, and the resulting mixture stirred overnight at 50° C. The reaction mixture was cooled to room temperature and poured into water (30 mL). The aqueous phase was separated and extracted with ethyl acetate (3×20 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 25% ethyl acetate-petroleum ether) to afford (2S)-methyl 6-(1-(1-benzhydryl-2-methylazetidin-3-yl)-1H-pyrazol-4-yl)-5-(4-fluorophenoxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.100 g, 21%) as yellow oil. MS (ESI, pos. ion) m/z 617 [M+H]+.

reactant | (S)-methyl 5-(4-fluorophenoxy)-2-methyl-6-(1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate | 0.79 mmol, 0.300 g | FC1=CC=C(OC2=C3CC[C@@H](N(C3=CC=C2C=2C=NNC2)C(=O)OC)C)C=C1 | C21H20FN3O3
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | Sodium hydride | 1.17 mmol, 0.047 g | [H-].[Na+]
reactant | 1-Benzhydryl-2-methylazetidin-3-yl methanesulfonate | 0.86 mmol, 0.286 g | CS(=O)(=O)OC1C(N(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)C | C18H21NO3S
solvent | water | 30 mL | O | H2O
product | (2S)-methyl 6-(1-(1-benzhydryl-2-methylazetidin-3-yl)-1H-pyrazol-4-yl)-5-(4-fluorophenoxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.100 g, 21% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(C(C1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1=CC=C(C=C1)F)C | C38H37FN4O3
